US08455507B2
Method M: 6-bromo-8-fluoro-2-methylquinoline
2-Fluoro-4-bromoaniline (10 g, 0.053 mol) was slurried in 6M HCl (100 ml). The mixture was heated to reflux and crotonaldehyde (14.9 g, 0.212 mol) was added dropwise over 1 hour. The resulting mixture was heated for an additional 90 minutes, then cooled down to room temperature and neutralized by careful addition of concentrated ammonia solution. The mixture was extracted with ethyl acetate and the organic layer was washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash column chromatography, eluting with 15-10% ethyl acetate/petrol. The product containing fractions were combined and concentrated to ca 60 ml. The product was then isolated by filtration. The filter cake was washed with petrol and air dried to afford the title compound as a solid (5.96 g, 47% yield). 1H NMR (CDCl3, 400 MHz) 2.80 (3H, s), 7.38 (1H, d), 7.53 (1H, d), 7.76 (1H, s), 8.00 (1H, d); MS (ES+) 240/242.

reactant | 2-Fluoro-4-bromoaniline | 0.053 mol, 10 g | FC1=C(N)C=CC(=C1)Br | C6H5BrFN
reactant | crotonaldehyde | 0.212 mol, 14.9 g | C(\C=C\C)=O | C4H6O
reactant | ammonia | N | H3N
solvent | HCl | 6M, 100 ml | Cl | ClH
product | 6-bromo-8-fluoro-2-methylquinoline | 5.96 g, 47% yield | BrC=1C=C2C=CC(=NC2=C(C1)F)C | C10H7BrFN
